US08049006B2
Tert-butyl 2-amino-4-aminosulfonylbenzoate (Compound S67)
To tert-butyl 4-aminosulfonyl-2-(benzyloxycarbonyl)aminobenzoate (5.0 g) in tetrahydrofuran solution (50 ml), 5% palladium carbon (500 mg) was added and the mixture was stirred under hydrogen atmosphere at room temperature for 1 hour. The insoluble compound was filtered out, and the filtrate was concentrated. The residue was diluted with ethyl acetate, then the insoluble compound was again filtered out. The filtrate was concentrated, and the residue was recrystallized from ethyl acetate/hexane to obtain the title compound (2.9 g).

reactant | tert-butyl 4-aminosulfonyl-2-(benzyloxycarbonyl)aminobenzoate | 5.0 g | NS(=O)(=O)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)OCC1=CC=CC=C1 | C19H22N2O6S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 500 mg | [C].[Pd]
product | Tert-butyl 2-amino-4-aminosulfonylbenzoate | 2.9 g | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)S(=O)(=O)N | C11H16N2O4S
